US07396958B2
(2-nitro-5-chlorophenyl)(2,6-dichlorophenyl)methanol
To 16.75 g of 1,3-dichlorobenzene dissolved in 250 ml of THF are added dropwise, at −70° C., 68 ml of a 1.6M solution in hexane of n-butyllithium. After one hour at −70° C., 10 g of 5-chloro-2-nitrobenzaldehyde dissolved in THF are introduced and the mixture is left for 3 hours at this temperature. The resulting mixture is hydrolysed by addition of 5 ml of acetic acid and is allowed to warm to room temperature. The resulting mixture is concentrated and the residue is chromatographed on a column of silica gel, eluting with a 90/10 (v/v) cyclohexane/ethyl acetate mixture to give 7.975 g of the expected product.

reactant | 1,3-dichlorobenzene | 16.75 g | ClC1=CC(=CC=C1)Cl | C6H4Cl2
reactant | n-butyllithium | C(CCC)[Li]
reactant | 5-chloro-2-nitrobenzaldehyde | 10 g | ClC=1C=CC(=C(C=O)C1)[N+](=O)[O-] | C7H4ClNO3
reactant | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | THF | 250 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | (2-nitro-5-chlorophenyl)(2,6-dichlorophenyl)methanol | 7.975 g | [N+](=O)([O-])C1=C(C=C(C=C1)Cl)C(O)C1=C(C=CC=C1Cl)Cl | C13H8Cl3NO3
